US05550121
(2S,4R)-2-[2-(N-Benzyl-N-methylcarbamoyl)-1-hydroxyethyl]-4-tert-butyldimethylsiloxypyrrolidine
Under a nitrogen atmosphere, a solution of N-benzyl-N-methylacetamide (280 mg, 1.67 mmol) in tetrahydrofuran (1 ml) was dropwise added at -78° C. to a solution comprising a 2.0M lithium diisopropylamide--tetrahydrofuran solution (835 μl, 1.67 mmol) and tetrahydrofuran (15 ml). The mixture was stirred at -78° C. for 10 minutes, and then a solution of (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal (500 mg, 1.52 mmol) in tetrahydrofuran (1 ml) was dropwise added thereto. The reaction mixture was stirred at the same temperature for 10 minutes. Saturated aqueous ammonium chloride was added to the reaction mixture, and then the reaction mixture was poured into a mixture of ethyl acetate--water. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate and concentrated in vacuo. The obtained oily residue was subjected to silica gel column chromatography (heptane-ethyl acetate=2:1) to give the title compound (549 mg, yield: 73.6%).

reactant | N-benzyl-N-methylacetamide | 1.67 mmol, 280 mg | C(C1=CC=CC=C1)N(C(C)=O)C | C10H13NO
reactant | lithium diisopropylamide | 2.0M | C(C)(C)[N-]C(C)C.[Li+]
reactant | (2S,4R)-N-tert-butoxycarbonyl-4-tert-butyldimethylsiloxyprolinal | 1.52 mmol, 500 mg | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1.67 mmol, 835 μl | O1CCCC1 | C4H8O
solvent | water | O | H2O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2S,4R)-2-[2-(N-Benzyl-N-methylcarbamoyl)-1-hydroxyethyl]-4-tert-butyldimethylsiloxypyrrolidine | 549 mg, yield: 73.6% | C(C1=CC=CC=C1)N(C(=O)CC(O)[C@H]1NC[C@@H](C1)O[Si](C)(C)C(C)(C)C)C | C21H36N2O3Si
